US04954629
II. Methyl-(1-cyanomethyl)-1-H-indazole-3-ylacetate
To a solution of methyl-1-H-indazole-3-ylacetate (1.9 g) in dimethylformamide (4 ml) was added sodium hydride (0.58 g; 50% by weight dispersed in oil) and the mixture stirred for 15 minutes at room temperature. Chloroacetonitrile (1.9 g) dissolved in dimethylformamide (2 ml) was then added and the reaction mixture stirred for 6 hours. The mixture was then poured onto ice-water (20 ml), the pH was adjusted to about 3 by the addition of sufficient dilute HCl, and the resulting precipitate was collected and air-dried (yield 1.87 g) m.p. 128°-134° C.

reactant | methyl-1-H-indazole-3-ylacetate | 1.9 g | COC(CC1=NNC2=CC=CC=C12)=O | C10H10N2O2
reactant | sodium hydride | 0.58 g | [H-].[Na+]
reactant | Chloroacetonitrile | 1.9 g | ClCC#N | C2H2ClN
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | Methyl-(1-cyanomethyl)-1-H-indazole-3-ylacetate | COC(C(C1=NNC2=CC=CC=C12)CC#N)=O | C12H11N3O2
